US06610688B2
Synthesis of 5-[3-Methyl-5-(morpholine-4-carbonyl)-1H-pyrrol-2-yl-methylene]-4-(1-phenyl-ethylamino)-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one (Formula 46)
A mixture of 4-chloro-5-[3-methyl-5-(morpholine-4-carbonyl)-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (37 mg, 0.1 mmol) and (R)-(+)-1-phenylethylamine (121 mg, 1 mmol) in 2-methoxyethanol (0.5 mL) was heated at 110-120° C. for 1.5 hours. The reaction was diluted with water and filtered. The precipitate was washed with water, little ethanol, ethyl acetate, hexane and dried to give 38.1 mg (81%) of the title compound as a yellow solid. MS 459 [M++1].

reactant | 4-chloro-5-[3-methyl-5-(morpholine-4-carbonyl)-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.1 mmol, 37 mg | ClC=1C2=C(N=CN1)NC(C2=CC=2NC(=CC2C)C(=O)N2CCOCC2)=O | C17H16ClN5O3
reactant | (R)-(+)-1-phenylethylamine | 1 mmol, 121 mg | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
solvent | 2-methoxyethanol | 0.5 mL | COCCO | C3H8O2
solvent | water | O | H2O
product | 5-[3-Methyl-5-(morpholine-4-carbonyl)-1H-pyrrol-2-yl-methylene]-4-(1-phenyl-ethylamino)-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one | 38.1 mg, 81% | CC1=C(NC(=C1)C(=O)N1CCOCC1)C=C1C(NC=2N=CN=C(C21)NC(C)C2=CC=CC=C2)=O | C25H26N6O3
